US07902187B2
6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-2-(6-(trifluoromethoxy)-1H-benzo[d]imidazol-1-yl)-7H-purin-8(9H)-one.
Yellow oil. TFA salt. Synthesized from 2-(2-amino-5-(trifluoromethoxy)phenylamino)-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one following the general procedure for closing the benzimidazole ring. 1H NMR (300 MHz, CD3OD+CDCl3) δ, ppm: 9.30 (br s, 1H), 9.00-8.85 (br m, 1H), 8.67 (s, 1H), 8.20-8.10 (m, 2H), 7.84-7.67 (m, 1H), 7.40-7.22 (m, 2H), 4.76-4.72 (m, 1H), 4.26-4.13 (m, 2H), 3.62 (app t, 2H), 2.90-2.80 (m, 2H), 1.90 (br d, 2H); MS (EI) m/z 498.3 (MH)+.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 2-(2-amino-5-(trifluoromethoxy)phenylamino)-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one | NC1=C(C=C(C=C1)OC(F)(F)F)NC1=NC(=C2NC(N(C2=N1)C1CCOCC1)=O)C1=CC=NC=C1 | C22H20F3N7O3
product | 6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-2-(6-(trifluoromethoxy)-1H-benzo[d]imidazol-1-yl)-7H-purin-8(9H)-one | N1=CC=C(C=C1)C1=C2NC(N(C2=NC(=N1)N1C=NC2=C1C=C(C=C2)OC(F)(F)F)C2CCOCC2)=O | C23H18F3N7O3
